US04218370
F. Preparation of 4-t-Butylazo-4-(p-t-butylthiophenoxy) pentanol
To a 250 ml 3-neck round bottom flask equipped with a magnetic stirrer, thermometer, condenser and addition funnel was added 6.6 grams (0.1 mole) of 85% potassium hydroxide pellets and 130 mls of methanol. The mixture was stirred at 30° C. until the pellets dissolved. The resulting solution was cooled to 15° C. and with rapid stirring 16.6 grams (0.1 mole) of para-t-butyl-thiophenol were added while holding the temperature at 15° to 20° C. The mixture was stirred an additional 15 minutes at 15° C. and then 24.9 grams (0.1 mole) of 4-t-butylazo-4-chloropentyl acetate were added over 20 minutes while holding the temperature at 15° to 20° C. After the addition was complete, the mixture was stirred an additional hour at room temperature and then an additional 6.6 grams (0.1 mole) of 85% potassium hydroxide was added (to saponify the acetyl group). The mixture was stirred an additional 1 hour at room temperature, poured into 300 mls of water and the organic layer taken up in 100 mls of methylene chloride. The methylene chloride layer was separated, washed with 50 ml portions of water, 10% HCl, water and saturated sodium bicarbonate solution, dried over anhydrous sodium sulfate, filtered and the methylene chloride stripped off on a rotary evaporator under reduced pressure. The resulting light orange liquid weighed 28 grams (83.5% crude yield). The infrared spectrum of the product contained a very broad strong OH band centered at 3350-3400 cm-1 and there was no carbonyl band.

reactant | potassium hydroxide | 0.1 mole, 6.6 grams | [OH-].[K+]
reactant | methanol | 130 mls | CO | CH4O
reactant | para-t-butyl-thiophenol | 0.1 mole, 16.6 grams | C(C)(C)(C)C1=CC=C(C=C1)S | C10H14S
reactant | 4-t-butylazo-4-chloropentyl acetate | 0.1 mole, 24.9 grams | C(C)(=O)OCCCC(C)(Cl)N=NC(C)(C)C | C11H21ClN2O2
reactant | potassium hydroxide | 0.1 mole, 6.6 grams | [OH-].[K+]
solvent | methylene chloride | 100 mls | C(Cl)Cl | CH2Cl2
solvent | water | 300 mls | O | H2O
product | 4-t-Butylazo-4-(p-t-butylthiophenoxy) pentanol | C(C)(C)(C)N=NC(CCCO)(C)SC1=CC=C(C=C1)C(C)(C)C | C19H32N2OS
